US07012075B2
To a dry THF solution (20 mL) of methyl N-(4-bromo-5-methylisoxazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (1.19 g, 2.47 mmol) and activated zinc (10.1 g, 154 mmol) was added ca. 10 mL of 1 M KH2PO4 (10 mmol) at 0° C. The mixture was stirred for 1.5 hours, filtered through celite, washed with 150 mL ethyl acetate, and concentrated to a small volume. The mixture was then partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, washed with brine, dried over sodium sulphate and concentrated in vacuo. The crude product was purified by flash chromatography (20% ethyl acetate/hexane) to afford methyl N-(4-bromo-5-methylisoxazol-3-yl)leucinate.

reactant | methyl N-(4-bromo-5-methylisoxazol-3-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 2.47 mmol, 1.19 g | BrC=1C(=NOC1C)N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C14H18BrCl3N2O5
reactant | KH2PO4 | 10 mmol, 1 M, ca. 10 mL | OP(=O)(O)[O-].[K+]
catalyst | zinc | 154 mmol, 10.1 g | [Zn] | Zn
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl N-(4-bromo-5-methylisoxazol-3-yl)leucinate | BrC=1C(=NOC1C)N[C@@H](CC(C)C)C(=O)OC | C11H17BrN2O3
